US04686291
48.6 g (0.2 mol) of 3,3-dimethyl-4-phenyl-1-(1,2,4-triazol-1-yl)-butan-2-one, 27.9 g (0.22 mol) of benzyl chloride and 12.3 g (0.22 mol) of potassium hydroxide in 15 ml of water are dissolved in 300 ml of dimethylsulphoxide. The reaction mixture is stirred for a further 8 hours at 50° C. and then poured onto water. The mixture is extracted with ethyl acetate. The organic phase is concentrated and the residue is purified by column chromatography (silica gel/ethyl acetate: cyclohexane =3:1). 54.5 g (81.8% of theory) of 1,5-bisphenyl-2,2-dimethyl-4-(1,2,4-triazol-1-yl)-pentan-3-one of melting point 45°-50° C. are obtained.

reactant | 3,3-dimethyl-4-phenyl-1-(1,2,4-triazol-1-yl)-butan-2-one | 0.2 mol, 48.6 g | CC(C(CN1N=CN=C1)=O)(CC1=CC=CC=C1)C | C14H17N3O
reactant | benzyl chloride | 0.22 mol, 27.9 g | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | potassium hydroxide | 0.22 mol, 12.3 g | [OH-].[K+]
solvent | water | 15 ml | O | H2O
solvent | dimethylsulphoxide | 300 ml | CS(=O)C | C2H6OS
product | 1,5-bisphenyl-2,2-dimethyl-4-(1,2,4-triazol-1-yl)-pentan-3-one | 54.5 g, 81.8% | C1(=CC=CC=C1)CC(C(C(CC1=CC=CC=C1)N1N=CN=C1)=O)(C)C | C21H23N3O
